US07759337B2
Step 1: 6-benzyl-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-3-ol
A mixture of ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride (10.0 g, 34 mmol, Aldrich) and hydrazine (30 mL, 824 mmol, Aldrich) was stirred at RT for 48 h. The volatile solvents were removed in vacuo, and the residue was azeotroped with MeOH (1×), then recrystallized from MeOH to obtain the title compound MS (ESI, pos. ion) m/z: 230 (M+1).

reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride | 34 mmol, 10.0 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | hydrazine | 824 mmol, 30 mL | NN | H4N2
product | 6-benzyl-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-3-ol | C(C1=CC=CC=C1)N1CC2=C(CC1)C(=NN2)O | C13H15N3O
